US07153854B2
A mixture of 4-(3-cyanophenyl)-7-ethyl-3-(methylsulfonyl)pyrrolo[1,2-b]pyridazine-2-carboxylic acid (40.0 mg), diemthylamine hydrochloride (12.4 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (25.2 mg), and 1-hydroxybenzotriazole (21.9 mg) in N,N-dimethylformamide (1 mL) was stirred for 3 hours at room temperature. The mixture was partitioned between ehtyl acetate (20 mL) and 1N hydrochloric acid (10 mL). The organic layer was washed with water (10×3 mL), saturated sodium bicarbonate (10 mL), and brine, dried over magnesium sulfate, and evaporated to give 4-(3-cyanophenyl)-7-ethyl-N,N-dimethyl-3-(methylsulfonyl)pyrrolo[1,2-b]pyridazine-2-carboxamide as an yellow solid (43.4 mg, 101%)

reactant | 4-(3-cyanophenyl)-7-ethyl-3-(methylsulfonyl)pyrrolo[1,2-b]pyridazine-2-carboxylic acid | 40.0 mg | C(#N)C=1C=C(C=CC1)C=1C=2N(N=C(C1S(=O)(=O)C)C(=O)O)C(=CC2)CC | C18H15N3O4S
reactant | hydrochloride | 12.4 mg | Cl | ClH
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 25.2 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 21.9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 4-(3-cyanophenyl)-7-ethyl-N,N-dimethyl-3-(methylsulfonyl)pyrrolo[1,2-b]pyridazine-2-carboxamide | 43.4 mg, 101% | C(#N)C=1C=C(C=CC1)C=1C=2N(N=C(C1S(=O)(=O)C)C(=O)N(C)C)C(=CC2)CC | C20H20N4O3S
